US04060630
One mole of 1-amino-2-chloroethane hydrochloride in 500 ml of dimethylformamide at 0° C is treated with 1 mole of β,β,β-trichloroethyl chloroformate after which a solution of 2 moles of triethylamine in 200 ml of dimethylformamide is slowly added. Upon completion of the addition, the reaction is diluted with 2 liters of water and extracted twice with 750 ml of ether. The ether extracts are washed twice with 500 ml of water then twice with 500 ml of 1 M HCl, dried over sodium sulfate and evaporated to dryness to give β,β,β-trichloroethyl N-(2-chloroethyl)carbamate.

reactant | 1-amino-2-chloroethane hydrochloride | One mole | Cl.NCCCl
reactant | β,β,β-trichloroethyl chloroformate | 1 mole | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | triethylamine | 2 moles | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 2 liters | O | H2O
product | β,β,β-trichloroethyl N-(2-chloroethyl)carbamate | ClCCNC(OCC(Cl)(Cl)Cl)=O | C5H7Cl4NO2
